* C:\Users\mbelanger\OneDrive - Olin College of Engineering\Documents\Fourth Year\Second Semester\Ecelectronics\Eclectronics_SP26\mini_project_1\simulation\mini_project_1.asc
R1 N003 N001 1k
R2 N001 1.65 1k
R3 P001 N005 2Meg
C1 1.65 N005 0.1µ
V1 3.3V 0 3.3V
XU1 N001 N005 3.3V 0 N003 level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12
R4 P002 P001 2Meg
C2 3.3V 0 1µ
D1 N004 0 RED
R7 N003 N004 1k
XU2 N002 1.65 3.3V 0 1.65 level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12
R8 N002 0 1k
R9 3.3V N002 1k
R5 P003 P002 499k
R6 N003 P003 49.9k
.model D D
.lib C:\Users\mbelanger\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 23 20
.model RED D(Is=3.3835E-20 N=1.803 Rs=3)
.lib UniversalOpAmp2.lib
.backanno
.end
