* C:\Users\mbelanger\OneDrive - Olin College of Engineering\Documents\Fourth Year\Second Semester\Ecelectronics\Eclectronics_SP26\mini_project_1\simulation\mini_project_1_worst_case.asc
R1 N003 N001 {wc(1k,tol,4)}
R2 N001 1.65 {wc(1k,tol,3)}
R3 N005 N004 {wc(2MEG,tol,5)}
C1 1.65 N004 {wc(0.1u,0.05,10)}
V2 3.3V 0 3.3V
XU1 N001 N004 3.3V 0 N003 level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12
R4 N006 N005 {wc(2MEG,tol,6)}
R7 N002 0 {wc(1k,tol,2)}
R6 3.3V N002 {wc(1k,tol,1)}
R8 N007 N006 {wc(499k, tol, 7)}
R9 N003 N007 {wc(49.9k, tol, 8)}
C2 3.3V 0 {wc(1u,0.1,9)}
C3 3.3V 0 {wc(1u,0.1,0)}
XU2 N002 1.65 3.3V 0 1.65 level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12
.tran 0 60 55
.func wc(nom,tol,index) if(run==numruns,nom,if(binary(run,index),nom*(1+tol),nom*(1-tol)))
.func binary(run,index) floor(run/(2**index))-2*floor(run/(2**(index+1)))
.step param run 0 2048 1
.param numruns=2048
.param tol=0.01
.lib UniversalOpAmp2.lib
.backanno
.end
